data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_388428_0,[C:1](/[C:3](=[C:2](/[O:5][O:6][H:8])[N:7][H:9])[C:4]([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([C:3](=[C:4]([H:13])[H:14])[O:5]/[C:2]([O:6][H:8])=[N:7]/[H:9])([H:10])([H:11])[H:12],66.69572000003967
MR_512072_1,[C:1](/[C:4](=[C:2]([C:3](\[N:5]([H:10])[H:11])=[N:8]/[H:14])/[O:7][H:9])[N:6]([H:12])[H:13])([H:15])([H:16])[H:17]>>[C:1]([C@:4]1([N:6]([H:12])[H:13])[C:2]([O:7][H:9])=[C:3]([N:5]([H:10])[H:11])[N:8]1[H:14])([H:15])([H:16])[H:17],43.835267500043926
MR_124610_1,[C:1](\[N:3]([H:9])[H:10])(=[N:4]\[H:11])[N:7]1[C:2](=[C:6]([H:14])[H:15])[C:5]1([O:8][H:12])[H:13]>>[C:1]([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])=[N:7][C:2]([C:5](=[O:8])[H:13])=[C:6]([H:14])[H:15],2.457290000002388
MR_8952_2,[C:1](/[C:3](=[N:2]/[N:4]([H:6])[H:7])[O:5][H:8])([H:9])([H:10])[H:11]>>[C:1]([C:3]([N:2]([N:4]([H:7])[H:8])[H:6])=[O:5])([H:9])([H:10])[H:11],41.78899000003824
MR_177317_0,[C:1]1([H:10])([H:11])[C@:4]([C:2]([H:12])([H:13])[H:14])([C:5]([C:3]([O:7][H:9])=[O:8])([H:15])[H:16])[O:6]1>>[C:1]([C:3]([O:7][H:9])=[O:8])([O:6][C:4]([C:2]([H:12])([H:13])[H:14])=[C:5]([H:15])[H:16])([H:10])[H:11],57.03284749996698
MR_46966_1,[C:1]([O:6][C:2]([H:14])([H:15])[H:16])([N:7]=[C:3]([N:4]([H:8])[H:9])[N:5]([H:10])[H:11])([H:12])[H:13]>>[C:1](=[N:7][C:3]([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])[O:6][C:2]([H:14])([H:15])[H:16])([H:12])[H:13],54.131287500016185
MR_612303_0,[C@:1]([C@@:2]([C:3]([H:13])([H:14])[H:15])([N:6][O:7])[H:10])([N:4]([H:11])[H:12])([O:5][H:8])[H:9]>>[C@@:1]([C@:2]([C:3]([H:13])([H:14])[H:15])([O:5][H:8])[H:10])([N:4]([H:11])[H:12])([N:6]=[O:7])[H:9],62.72552750000472
MR_667706_0,[N:1]([C:2]([O:5][H:8])=[O:7])(/[C:4](=[N:6]/[N:3]([H:10])[H:11])[H:12])[H:9]>>[N:1](=[C:4](\[N:6]([C:2]([O:5][H:8])=[O:7])[N:3]([H:10])[H:11])[H:12])\[H:9],49.71619749999874
MR_222888_1,[C:1]([C:4]([C:2]([H:16])([H:17])[H:18])[C:6]([C:5](=[C:3]([O:7][H:10])[O:8][H:9])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:4]1([C:2]([H:16])([H:17])[H:18])[C:3]([O:7][H:10])([O:8][H:9])[C:5]([H:11])=[C:6]1[H:12])([H:13])([H:14])[H:15],49.2029025000106
MR_222093_0,[C:1]1([C:3]([H:13])([H:14])[H:15])([C:6](=[O:8])[H:9])[C:2]([H:10])([H:11])[C:5]([C:4]([H:16])([H:17])[H:18])=[C:7]1[H:12]>>[C:1]1([C:3]([H:13])([H:14])[H:15])=[C:7]([H:12])[C:5]([C:4]([H:16])([H:17])[H:18])([C:6](=[O:8])[H:9])[C:2]1([H:10])[H:11],64.23968499999845
MR_490913_1,[C:1]1([C:3]([C:4](=[C:6]([H:16])[H:17])[N:8]=[C:5]([H:14])[H:15])([H:12])[H:13])([H:9])[C:2]([H:10])([H:11])[O:7]1>>[C:1]1([C:3]([C:4](=[C:6]([H:16])[H:17])[N:8]=[C:5]([H:14])[H:15])([H:12])[H:13])([H:9])[C:2]([H:10])([H:11])[O:7]1,65.37420500002327
MR_86460_0,[C:1](/[C:6](=[C:3](/[N:2]([N:4]([H:8])[H:9])[H:7])[N:5]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:6]([C:3]1([N:5]([H:10])[H:11])[N:2]([H:7])[N:4]1[H:8])([H:9])[H:12])([H:13])([H:14])[H:15],61.64622750001882
MR_582281_0,[C:1]([C:5]([C:7]([C:3]([H:18])([H:19])[H:23])[C:4]([H:20])([H:21])[H:22])/[N:9]=[C:6](/[C:2]([H:15])([H:16])[H:17])[C:8](=[O:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C@:5]1([C:7]([C:3]([H:18])([H:19])[H:23])([C:4]([H:20])([H:21])[H:22])[C:8](=[O:10])[H:11])[C:6]([C:2]([H:15])([H:16])[H:17])[N:9]1)([H:12])([H:13])[H:14],67.29121750003429
MR_601518_1,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])=[C:6]([C:5]1([H:9])[N:4]([H:8])[O:7]1)[H:10]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])[N:4]([H:8])[O:7][C:5]([H:9])=[C:6]1[H:10],57.14579749996716
MR_644802_0,[C:1]([C:4](/[C:3]([N:6]([H:11])[H:12])=[N:8]/[N:5]([H:9])[H:10])=[C:7](/[C:2]([H:17])([H:18])[H:19])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:4]1=[C:3]([N:6]([H:11])[H:12])[N:8]([N:5]([H:9])[H:10])[C:7]1([C:2]([H:17])([H:18])[H:19])[H:13])([H:14])([H:15])[H:16],46.13380000001911
MR_127996_0,[C:1]([C:2]([C:3]([C:4](=[O:7])[H:9])[N:5][H:8])=[O:6])([H:10])([H:11])[H:12]>>[C:1]([C:2]([C@:4]1([H:9])/[C:3](=[N:5]/[H:8])[O:7]1)=[O:6])([H:10])([H:11])[H:12],62.49397999998294
MR_532594_1,[C:1](\[C:2]([N:3]([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])([O:8][H:12])[H:13])[H:9])([H:14])[H:15])(=[N:4]/[H:11])[H:10]>>[C:1]([C:2]([N:3]([C:5](=[O:8])[H:13])[H:9])([H:14])[H:15])([N:4]([H:11])[H:12])([C:6](=[C:7]([H:17])[H:18])[H:16])[H:10],49.34910999999815
MR_339626_0,[C@:1]1([C:2]([H:11])([H:12])[H:13])([N:4]([H:7])[H:8])[C:3]([N:5]([H:9])[H:10])[N:6]1>>[C:1]1([C:2]([H:11])([H:12])[H:13])[C:3]([N:4]([H:7])[H:8])([N:5]([H:9])[H:10])[N:6]1,63.809847499977934
MR_163122_0,[C:1](/[C:2]([N:4]([H:10])[H:11])=[N:7]\[O:6][H:9])(/[C:3]([N:5]([H:12])[H:13])=[N:8]/[H:14])([H:15])[H:16]>>[C:1](=[C:3]([N:5]([H:12])[H:13])[N:8](/[C:2]([N:4]([H:10])[H:11])=[N:7]\[O:6][H:9])[H:14])([H:15])[H:16],66.4641725000179
MR_390510_1,[C:1]([C:3]([O:7][H:10])=[O:8])([C:4]([C:2]([H:15])([H:16])[H:17])=[O:9])([N:5]([H:12])[H:13])[N:6]([H:11])[H:14]>>[C:1](=[C:3]([O:7][H:10])[O:8][C:4]([C:2]([H:15])([H:16])[H:17])=[O:9])([N:5]([H:12])[H:13])[N:6]([H:11])[H:14],57.02531749998599
